### PR TITLE
[Merged by Bors] - feat(NumberTheory/ModularForms): arithmetic subgroups act properly discontinuously

### PR DESCRIPTION
**Pull request by loefflerd**
Arithmetic subgroups (subgroups of GL(2, R) commensurable with SL(2, Z)) act properly discontinuously on the upper half-plane.

---

- [ ] depends on: #37601

### CODE REVIEW

File: Mathlib/Topology/Algebra/Group/DiscontinuousSubgroup.lean [hunk 1]
```diff
@@ -0,0 +1,94 @@
...
+  congr! with K L hK hL
+  constructor -- need something like `Set.Finite.iff_finite_image`?
+  · intro h
+    convert h.map Subtype.val
+    ext g
+    simp [show ∀ (h : g ∈ S), (⟨g, h⟩ : S) • K = g • K by intro; rfl]
+  · refine fun h ↦ .of_finite_image ?_ injOn_subtype_val
+    convert h
+    ext g
+    simp [show ∀ (h : g ∈ S), (⟨g, h⟩ : S) • K = g • K by intro; rfl]
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Group/DiscontinuousSubgroup.lean]: We essentially already have that lemma, it's `Set.BijOn.finite_iff_finite`. Here is how you can use it:
```suggestion
  convert injOn_subtype_val (s := {m : S | (m • K ∩ L).Nonempty}) |>.bijOn_image.finite_iff_finite
  ext
  simp [Set.subtype_smul_set, and_comm]
```
Note that you need to add this missing lemma for the final `simp` to succeed.
```lean
lemma Set.subtype_smul_set {S α β : Type*} [SMul α β] [SetLike S α] {s : S} (x : s) (t : Set β) :
    (x • t : Set β) = (x : α) • t :=
  rfl
```

File: Mathlib/Topology/Algebra/Group/DiscontinuousSubgroup.lean [hunk 2]
```diff
@@ -0,0 +1,94 @@
...
+instance [SMul Γ α] [ProperlyDiscontinuousSMul Γ α] (G : Subgroup Γ) :
+    ProperlyDiscontinuousSMul G α := by
+  refine Subgroup.properlyDiscontinuousSMul_of_le ?_ le_top
+  simp only [Subgroup.properlyDiscontinuousSMul_iff, Subgroup.mem_top, true_and]
+  exact finite_disjoint_inter_image
+
+open Pointwise in
+/-- If `G, H` are subgroups of `Γ` which acts on `α`, and `G ∩ H` has finite index in `G`,
+then `G` acts properly discontinuously if `H` does. -/
+lemma ProperlyDiscontinuousSMul.ofFiniteRelIndex [MulAction Γ α] [ContinuousConstSMul Γ α]
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Group/DiscontinuousSubgroup.lean:53]:
```suggestion
@[to_additive]
lemma ProperlyDiscontinuousSMul.ofFiniteRelIndex [MulAction Γ α] [ContinuousConstSMul Γ α]
```

File: Mathlib/Topology/Algebra/Group/DiscontinuousSubgroup.lean [hunk 3]
```diff
@@ -0,0 +1,94 @@
...
+    have : Fintype S := .ofEquiv _ hS.rightQuotientEquiv
+    exact (toFinite S).image _
+  have hS' {g : Γ} (hg : g ∈ G) : ∃ t ∈ Subtype.val '' S, g * t⁻¹ ∈ H := by
+    obtain ⟨p, hp⟩ := (hS.existsUnique ⟨g, hg⟩).exists
+    aesop
+  refine (hT.biUnion <| fun t ht ↦ (this t).map fun g ↦ g * t).subset fun g ↦ ?_
+  simp [mul_smul]
+  grind
+
+lemma Subgroup.properlyDiscontinuousSMul_iff_of_isFiniteRelIndex
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Group/DiscontinuousSubgroup.lean:73]:
```suggestion
@[to_additive]
lemma Subgroup.properlyDiscontinuousSMul_iff_of_isFiniteRelIndex
```

File: Mathlib/Topology/Algebra/Group/DiscontinuousSubgroup.lean [hunk 4]
```diff
@@ -0,0 +1,94 @@
...
+    [MulAction Γ α] [ContinuousConstSMul Γ α]
+    {G H : Subgroup Γ} (hGH : G ≤ H) [IsFiniteRelIndex G H] :
+    ProperlyDiscontinuousSMul G α ↔ ProperlyDiscontinuousSMul H α :=
+  ⟨fun _ ↦ .ofFiniteRelIndex H G, (properlyDiscontinuousSMul_of_le · hGH)⟩
+
+lemma Subgroup.Commensurable.properlyDiscontinuousSMul_iff
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Group/DiscontinuousSubgroup.lean:80]:
```suggestion
@[to_additive]
lemma Subgroup.Commensurable.properlyDiscontinuousSMul_iff
```

**Review by j-loreaux — COMMENTED** [review]
LGTM mostly, but can you please provide some justification for the import increase? It's increasing the imports of several files downstream by a few hundred files, along with the 20% bump in this file.

**Comment by loefflerd** [comment]
Thanks for the review, Jireh! 

> LGTM mostly, but can you please provide some justification for the import increase? It's increasing the imports of several files downstream by a few hundred files, along with the 20% bump in this file.

Good point, I moved the two instances that need those imports into a separate file.

-awaiting-author

File: Mathlib/Algebra/Group/Submonoid/Pointwise.lean [hunk 5]
```diff
@@ -48,6 +48,11 @@ variable [Monoid M] [AddMonoid A]
 lemma coe_mul_coe [SetLike S M] [SubmonoidClass S M] (H : S) : H * H = (H : Set M) := by
   aesop (add simp mem_mul)
 
+@[to_additive (attr := simp)]
```
Comment (j-loreaux) [inline Mathlib/Algebra/Group/Submonoid/Pointwise.lean]: I don't think we *always* want to perform this. Especially if `s` has a group structure, but `α` doesn't (e.g., `s := unitary α`)
```suggestion
@[to_additive]
```

**Review by j-loreaux — COMMENTED** [review]
bors d+

File: Mathlib/Algebra/Group/Submonoid/Pointwise.lean [hunk 6]
```diff
@@ -48,7 +48,12 @@ variable [Monoid M] [AddMonoid A]
 lemma coe_mul_coe [SetLike S M] [SubmonoidClass S M] (H : S) : H * H = (H : Set M) := by
   aesop (add simp mem_mul)
 
-@[to_additive (attr := simp)]
+@[to_additive]
+lemma Set.subtype_smul_set {S α β : Type*} [SMul α β] [SetLike S α] {s : S} (x : s) (t : Set β) :
+    (x • t : Set β) = (x : α) • t :=
+  rfl
+
+@[to_additive]
```
Comment (loefflerd) [inline Mathlib/Algebra/Group/Submonoid/Pointwise.lean]:
```suggestion
@[to_additive (attr := simp)]
```

**Comment by loefflerd** [comment]
Oops, something went wrong there, I should have waited for CI to complete before sending to bors. Will try again in the morning!
